Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
clarithromycin / Neosporin AF
 
Attending: ___.
 
Chief Complaint:
DOE
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with hx double mastectomy/BSO for BRACA2 with no hx cancer 
presenting as a transfer from ___ with bilateral PEs. 
She has had 3 months of worsening shortness of breath and 
dyspnea on exertion. She denies any chest pain, leg swelling or 
cough. No fevers or chills. She notes that when she tried to 
walk up the stairs yesterday she was increasingly short of 
breath and at the top was extremely dizzy and presyncopal to the 
point that she had to lie down. She presented to be ___ 
where she was found to have bilateral PEs and was transferred 
for specialty care after being started on a heparin drip. Per 
report her oxygen saturation was in the ___ on room air and was 
put on 4 L nasal cannula.  
 
 -In the ED, initial vitals were: T 96.0 HR 74 BP 142/88 RR 22 
Spo2 95% Nasal Cannula.  
 -Her exam was notable for being asymptomatic at rest, no other 
abnormalities on exam  
 -Labs most notable for WBC 5.7, H/H 8.1/28.0, PTT 150, INR 1.1, 
Cr 0.8, trop 0.03, proBNP 444, lactate 1.3  
 -No further imaging performed at ___, but OSH CTA chest 
demonstrated: Bilateral pulmonary emboli involving all the 
pulmonary artery segment. No pulmonary emboli identified in the 
main or central pulmonary arteries. However the RV LV ratio is 
greater than one and there is possible slight flattening of the 
intraventricular septum, findings which indicate mild right 
heart strain.  
 -MASOCT/PE was consulted in ED and given current stability and 
overall low-risk features of their presentation with regards to 
pulmonary embolism, it was not deemed of sufficient complexity 
to warrant activation of the multi-disciplinary team (MASCOT)  
 -The patient was continued on heparin gtt in ED and decision 
was made to admit to medicine for further management  
 -Transfer VS were: T 97.0 RR 80 BP 105/72 RR 23 SpO2 97% RA  
 On arrival to the floor, patient reports improve dyspnea. She 
denies any pleuritic chest pain, abdominal pain, calf 
tenderness, fevers, chills, nausea, or vomiting. She was 
continued on heparin gtt and her home medications.  
 Review of systems:  
 As per HPI, otherwise negative in detail  

 
Past Medical History:
PAST MEDICAL HISTORY:  
 - Anemia; scheduled for endoscopy for workup  
 - GERD  
 - Sciatica  
 - Depression  
 - BRCA2 positive s/p bilateral mastectomy and BSO  

 
Social History:
___
Family History:
FAMILY HISTORY:  
 - Sister - died of metastatic breast cancer  
 - 2 cousins - cancer  
 - Father - unspecified heart condition  
 - No family history of thrombosis of coagulopathy  

 
Physical Exam:
ADMISSION EXAM:
 VS T 97.5 HR 81 BP 128/78 R 18 SpO2 92% 4L NC  
 General: Alert, oriented, no acute distress  
 HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD  
 CV: RRR, normal S1 + S2, no murmurs, rubs, gallops  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Obese, otherwise soft, non-tender, non-distended, 
bowel sounds present,  
 Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema.. No calf tenderness bilaterally  
 Neuro: Moving all extremities with purpose, no facial 
asymmetry, gait deferred.  
 
DISCHARGE EXAM:
VS -  97.5, 143/91, 56, 20, 98%, 1lnc
 General: Alert, oriented, no acute distress  
 HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD  
 CV: RRR, normal S1 + S2, no murmurs, rubs, gallops  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Obese, otherwise soft, non-tender, non-distended, 
bowel sounds present,  
 Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema. No calf tenderness bilaterally  
 Neuro: Moving all extremities with purpose, no facial 
asymmetry, gait deferred.  

 
Pertinent Results:
ADMISSION LABS:
==================
___ 09:58PM   ___ PTT-150* ___
___ 09:58PM   PLT COUNT-223
___ 09:58PM   NEUTS-76.7* LYMPHS-14.8* MONOS-6.1 EOS-1.4 
BASOS-0.5 IM ___ AbsNeut-4.39 AbsLymp-0.85* AbsMono-0.35 
AbsEos-0.08 AbsBaso-0.03
___ 09:58PM   WBC-5.7 RBC-3.09* HGB-8.1* HCT-28.0* MCV-91 
MCH-26.2 MCHC-28.9* RDW-24.7* RDWSD-81.8*
___ 09:58PM   proBNP-444*
___ 09:58PM   cTropnT-0.03*
___ 09:58PM   estGFR-Using this
___ 09:58PM   GLUCOSE-104* UREA N-18 CREAT-0.8 SODIUM-138 
POTASSIUM-4.3 CHLORIDE-102 TOTAL CO2-22 ANION GAP-18
___ 10:37PM   LACTATE-1.3
___ 11:20PM URINE  MUCOUS-RARE
___ 11:20PM URINE  RBC-1 WBC-4 BACTERIA-FEW YEAST-NONE 
EPI-3
___ 11:20PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-TR BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 LEUK-SM 

___ 11:20PM URINE  COLOR-Straw APPEAR-Clear SP ___

Imaging:
=============
TTE ___: The left atrium is normal in size. No atrial septal 
defect is seen by 2D or color Doppler. The estimated right 
atrial pressure is ___ mmHg. Left ventricular wall thickness, 
cavity size, and global systolic function are normal (LVEF>55%). 
Due to suboptimal technical quality, a focal wall motion 
abnormality cannot be fully excluded. Right ventricular chamber 
size is normal with borderline normal free wall function. The 
aortic valve leaflets (?#) appear structurally normal with good 
leaflet excursion. There is no aortic valve stenosis. No aortic 
regurgitation is seen. The mitral valve appears structurally 
normal with trivial mitral regurgitation. There is mild-moderate 
pulmonary artery systolic hypertension. There is no pericardial 
effusion.

IMPRESSION: Verys suboptimal image quality. Normal right 
ventricular cavity size with low normal free wall motion. 
Mild-moderate pulmonary artery systolic hypertension. Normal 
left ventricular cavity size with preserved global systolic 
function.  

DISCHARGE LABS:
===================
___ 08:15AM BLOOD WBC-4.5 RBC-2.89* Hgb-7.8* Hct-26.7* 
MCV-92 MCH-27.0 MCHC-29.2* RDW-24.1* RDWSD-79.8* Plt ___
___ 08:15AM BLOOD Plt ___
___ 08:15AM BLOOD Glucose-106* UreaN-16 Creat-0.8 Na-142 
K-4.5 Cl-107 HCO3-24 AnGap-___ y.o. woman with history of double mastectomy/BSO for BRACA2 
with no hx cancer presenting as a transfer from ___ with 
bilateral submassive PE.  

 # Submassive PE: Patient initially presenting with dyspnea 
found to have submassive bilateral PE with elevated trop and 
evidence of R heart strain on CTA but LV/RV ratio > 0.9. Patient 
otherwise hemodynamically stable. MASCOT consulted in ED, did 
not recommended thrombolytic therapy. Although patient BRCA2 
positive, no personal history of malignancy. She denies any 
recent injuries, immobilization, long flights, smoking, or 
hormonal therapy. PE possibly unprovoked. Patient denies any 
family history of thrombosis.  TTE was obtained given CT 
findings of possible right heart strain. It showed mild-moderate 
pulmonary hypertension but normal biventricular 
function and normal RA pressure. She was started on heparin gtt 
and then transitioned to rivaroxaban which should likely be 
continued indefinitely for unprovoked PE. Outpatient 
age-appropriate cancer screening and hypercoagulability workup 
should be considered.

#SVT: had several episodes of SVT ___ min during her admission. 
All resolved with vagal maneuvers. She was feeling palpitations 
and feeling lightheaded during these episodes but normotensive. 
Upon discussion with patient she feels this has been happening 
intermittently throughout her whole life. Should have 
consideration for outpatient cardiology referral and possible 
___ monitoring

 CHRONIC ISSUES  
 # Depression:  Continue home Citalopram 20 mg PO QDaily  
 # GERD:  Continue home Omeprazole 20 mg PO QDaily  
 # Anxiety: Continue home Lorazepam 0.5 mg PO BID PRN anxiety  
 # Iron Deficiency Anemia: EGD & c-scope scheduled ___. 
Continue home Ferrous Sulfate 325 mg PO QDaily  
 #insomnia: given ramelteon as an outpatient. counseled she can 
take melatonin for sleep after discharge
 
===========================================
TRANSITIONAL ISSUES
-Age-appropriate cancer screening and consideration of 
hypercoagulability workup
   - EGD and colonoscopy ___
-Echo with PA systolic HTN, please f/u with repeat echo in ___ 
months
-Melatonin may be started for insomnia
-Dc'ed with home O2 for ambulatory sats in the mid-___ on room 
air, can be weaned as tolerated
-SVT: noted to have several episodes that resolved with vagal 
maneuvers. Please consider cardiology referral as outpatient if 
continues to have palpitations and lightheadedness.
  -please consider outpatient ___
- Patient started on rivaroxaban 15 mg PO BID for PE. Dose 
should be changed to rivaroxaban 20 mg once daily in 21 days 
(___). Will need script for this
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Citalopram 20 mg PO DAILY 
2. Omeprazole 20 mg PO DAILY 
3. Ferrous Sulfate 325 mg PO DAILY 
4. LORazepam 0.5 mg PO BID:PRN Anxiety 

 
Discharge Medications:
1.  Rivaroxaban 15 mg PO BID 
RX *rivaroxaban [___] 15 mg 1 tablet(s) by mouth twice a day 
Disp #*40 Tablet Refills:*0 
2.  Citalopram 20 mg PO DAILY  
3.  Ferrous Sulfate 325 mg PO DAILY  
4.  LORazepam 0.5 mg PO BID:PRN Anxiety  
5.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
Pulmonary embolism

Secondary diagnoses:
Iron deficiency anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure to take care of you at ___ 
___.

Why did I have to stay?
   You had to stay in the hospital because of lung clots in both 
of your lungs (aka pulmonary embolism).

What was done for me?
  You were given blood thinners so that the blood  clots would 
not get larger. You were given oxygen to help with your 
breathing.

What should I do after discharge?
  You should take your medications as prescribed. You should 
follow up with your regular doctor.

Sincerely,
Your ___ Team
 
Followup Instructions:
___